US05039691
(S)-(-)-2,2-DIMETHYL-4-IODOMETHYL-1,3-DIOXOLANE
To a solution of 9.6 g (33.4 mmol.) of (S)-(+)-2,2-dimethyl-1,3-dioxolan-4-methyl p-toluenesulfonate in 20 mL of dimethylformamide was added in portions at 45° C., 5.0 g 33.4 mmol.) of sodium iodide. The reaction mixture was stirred at 78° C. for 20 hours. After being cooled to 25° C., the mixture was filtered. To the filtrate was added 200 mL of water and 250 mL of ether. The ether layer was separated, washed successively with 1N hydrochloric acid, water, aqueous sodium bicarbonate and brine. After the solution was dried over MgSO4, it was concentrated to afford 2.9 g (83%) of an orange-red liquid. TLC (silica, ethyl acetate: hexane, 1:9) R.function. 0.38. GC analysis on PH5-crosslinked 5% toluene silicone 25 m×0.2 mm×0.11 mm film thickness, Ti 100° C. 3 min, then 15./min to 300° C., Tr 4.13 min (100%). Optical rotation for 0.036 g of iodide diluted to 2.0 mL in 95% ethanol at 22° C. [α]D-27.0°. IR (neat) 2987, 2869, 1450, 1378, 1252, 1218, 1149, 1059, 845 cm-1. 1H NMR(CDCl3)δ 4.35-4.23 (m, 1H), 4.17-4.12 (m, 1H), 3.81-3.76 (m, 1H), 3.28-3.23 (m, 1H), 3.17-3.11 (m, 1H), 1.15 (s, 3H), 1.34 (s, 3H)

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
reactant | iodide | 0.036 g | [I-]
reactant | ethanol | C(C)O | C2H6O
product | (S)-(-)-2,2-DIMETHYL-4-IODOMETHYL-1,3-DIOXOLANE | CC1(OC[C@H](O1)CI)C | C6H11IO2
